US07205302B2
2,3-diphenylpyridin-1-oxide
1 g of 2,3-diphenylpyridine was dissolved in chloroform and 1.4 g of 70% m-chloroperoxybenzoic acid was added, followed by stirring at room temperature for 15 hours. After the reaction solution was washed with an aqueous 5% potassium carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure to obtain 1.3 g of a crude crystal. The crude crystal was washed with diisopropyl ether to obtain 922 mg of the desired compound as a colorless crystal having a melting point of 167 to 170° C.

reactant | 2,3-diphenylpyridine | 1 g | C1(=CC=CC=C1)C1=NC=CC=C1C1=CC=CC=C1 | C17H13N
reactant | m-chloroperoxybenzoic acid | 1.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3-diphenylpyridin-1-oxide | 922 mg | C1(=CC=CC=C1)C1=[N+](C=CC=C1C1=CC=CC=C1)[O-] | C17H13NO
